US06884821B1
Using 4-cyclohexylbenzoic acid and ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl)-2-isopropoxypropanoate, 3-(3-[(4-cyclohexylbenzoyl)amino)methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 38).

reactant | 4-cyclohexylbenzoic acid | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl)-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C21H33NO6
product | 3-(3-[(4-cyclohexylbenzoyl)amino)methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | C1(CCCCC1)C1=CC=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=C1 | C27H35NO5
